US07645789B2
To a solution of methyl 1-(4-aminophenyl)cyclopropanecarboxylate (10.38 g, 0.05 mol) in acetonitrile (200 mL) was added NBS (9.3 g, 0.05 mol) at room temperature. The mixture was stirred overnight. Water (200 mL) was added. The organic layer was separated and the aqueous phase was extracted with EtOAc (80 mL×3). The organic layers were dried with anhydrous Na2SO4 and evaporated to give methyl 1-(4-amino-3-bromophenyl)cyclopropanecarboxylate (10.6 g, 78%), which was used directly in the next step.

reactant | methyl 1-(4-aminophenyl)cyclopropanecarboxylate | 0.05 mol, 10.38 g | NC1=CC=C(C=C1)C1(CC1)C(=O)OC | C11H13NO2
reactant | NBS | 0.05 mol, 9.3 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Water | 200 mL | O | H2O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | methyl 1-(4-amino-3-bromophenyl)cyclopropanecarboxylate | 10.6 g, 78% | NC1=C(C=C(C=C1)C1(CC1)C(=O)OC)Br | C11H12BrNO2
